US07560558B2
(4,5-Dimethylfuran-2-yl)-(4-methyl-pyridin-2-yl)-methanol (900 mg) was dissolved in chloroform (20 ml) to prepare a solution. Manganese dioxide (3.6 g) was added to the solution, and the mixture was stirred at room temperature overnight. Further, manganese dioxide (1.8 g) was then added to the reaction solution, and the mixture was stirred at room temperature for 5 hr. The reaction solution was filtered through Celite, and the solvent was removed from the filtrate by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give (4,5-dimethylfuran-2-yl)-(4-methyl-pyridin-2-yl)-methanone (690 mg, yield 77%).

reactant | (4,5-Dimethylfuran-2-yl)-(4-methyl-pyridin-2-yl)-methanol | 900 mg | CC=1C=C(OC1C)C(O)C1=NC=CC(=C1)C | C13H15NO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 3.6 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 1.8 g | [O-2].[O-2].[Mn+4]
product | (4,5-dimethylfuran-2-yl)-(4-methyl-pyridin-2-yl)-methanone | 690 mg, yield 77% | CC=1C=C(OC1C)C(=O)C1=NC=CC(=C1)C | C13H13NO2
